Astable multivibrator

vin 5 0 dc 0 pulse(0 5 0 1us 1us 100us 100us)
vcc 6 0 5.0
rc1 6 1 1k
rc2 6 2 1k
rb1 6 3 30k
rb2 5 4 30k
c1 1 4 150pf
c2 2 3 150pf
q1 1 3 0 qmod area = 100p
q2 2 4 0 qmod area = 100p

.option acct bypass=1
.tran 0.05us 8us 0us 0.05us
.print tran v(1) v(2) v(3) v(4)

.model qmod nbjt level=1
+ x.mesh node=1  loc=0.0
+ x.mesh node=61 loc=3.0
+ region num=1 material=1
+ material num=1 silicon nbgnn=1e17 nbgnp=1e17
+ mobility material=1 concmod=sg fieldmod=sg
+ mobility material=1 elec major
+ mobility material=1 elec minor
+ mobility material=1 hole major
+ mobility material=1 hole minor
+ doping unif n.type conc=1e17 x.l=0.0 x.h=1.0
+ doping unif p.type conc=1e16 x.l=0.0 x.h=1.5
+ doping unif n.type conc=1e15 x.l=0.0 x.h=3.0
+ models bgnw srh conctau auger concmob fieldmob
+ options base.length=1.0 base.depth=1.25

.end
